US08283364B2
Stage 2 Preparation of (3,5-difluoro-4-nitrophenyl)acetic acid
1,1-dimethylethyl (3,5-difluoro-4-nitrophenyl)acetate (150 g) and 4M HCl in 1,4-dioxane (1150 ml) was stirred for 18 h at about 25° C. Nitrogen was bubbled through the mixture to remove excess HCl over 7 hours, then the mixture was concentrated. Toluene (300 ml) was distilled off then the residue was stirred with hexane (300 ml) for 10 minutes. The hexane was decanted off, and the residue stirred with hexane (150 ml) for 10 minutes, then the hexane was decanted off. The residue was stirred with toluene (450 ml) for 2 hours at around 25° C. The solid was filtered and washed with 1:1 toluene/hexane (300 ml), then dried under vacuum to give the title compound as a brown fine powder (41.5 g).

reactant | 1,1-dimethylethyl (3,5-difluoro-4-nitrophenyl)acetate | 150 g | FC=1C=C(C=C(C1[N+](=O)[O-])F)CC(=O)OC(C)(C)C | C12H13F2NO4
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 1150 ml | O1CCOCC1 | C4H8O2
product | (3,5-difluoro-4-nitrophenyl)acetic acid | FC=1C=C(C=C(C1[N+](=O)[O-])F)CC(=O)O | C8H5F2NO4
